Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I drank too much and my roommate was concerned because I had 
said I wanted to hurt myself." 

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and ___ initial 
consultation notes dated ___ and Dr. ___ 
admission note dated ___. 
. 
Briefly, this is an ___ year old single Caucasian woman, 
currently a freshman at ___, no formal psychiatric 
history but with symptoms of depression and anxiety beginning in 
high school, history of self injurious behaviors, no prior 
suicide attempts, who presented to ___ ED via EMS due to 
concerns for suicidal ideation in the setting of intoxication. 
. 
On initial interview, Ms. ___ reported she had been 
drinking with her friends and had drank about 6 shots of vodka, 
stating this this is the first time she did not remember what 
was going on, and stating she did not know why the ambulance 
brought her to the hospital. Patient reported she had been 
feeling sad and anxious for a couple of years with worsening of 
her symptoms over the past several weeks. Reported suicidal 
ideation that had been increasing over the past several weeks 
and on the ___ prior to presentation she came up with a plan 
to ingest Benadryl, explaining you can purchase twice the lethal 
amount at Target for only $11 and that she had researched on the 
internet how much she would need to take to kill herself. She 
reported that she has been avoiding Target so she would not be 
tempted to purchase Benadryl.
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with MS. ___, who was somewhat guarded, but 
a relatively reliable historian, she confirmed the history 
initially provided in the emergency department. Patient noted 
onset of depressive symptoms and suicidal ideation in the ___ 
of her ___ year of high school for unclear reasons. Reported 
she has been depressed since then, describing her depression as 
a weight in her chest, poor motivation, a feeling of numbness. 
She notes it is not constant, "I can be happy at times but then 
I realize how depressed I am and that makes me anxious." She 
reports she does not feel as if she has a reason to live "aside 
from other people" and states she does not know what she wants 
to do with her life. Reported she has had thoughts of suicide 
but denied intent or plan until recently. 
. 
Patient reported worsening of her depression and suicidal 
ideation this past week, stating she was supposed to write a 10 
page paper for class but could not bring herself to do it. She 
also reported feeling increased depression following her 
sister's suicide attempt in ___. She noted that when her sister
struggles, she tends to talk to her parents less, and at 
baseline she has difficulty talking about her emotions. In this 
setting, she states her suicidal ideation became more "solid" 
this past weekend and was not just ideation, but a plan. 
Admitted she had been looking up lethal doses of Benadryl online 
and had thoughts of renting a hotel room to kill herself. At 
this time, she states
she does not think she would go through it because she does not 
want to hurt her family. Ms. ___ noted she has both stay 
"impulsive side that cuts" and then the side of her that is in 
control. Reports feeling safe on the unit and denies suicidal 
ideation at this time. Patient reported "varied" sleep, which he
attributes to the pressures of ___ life. Reported she 
continues to enjoy art and watching Netflix, but reported 
feeling tired, with difficulty concentrating. Denied 
difficulties with appetite, stating her weight is been stable.
. 
On psychiatric review of systems, patient endorsed chronic 
anxiety, for which she fidgets and cuts herself to relieve 
anxiety. Reported her anxiety tends to increase in social 
situations and she will often use deep breathing and feeling her 
pulse to help her alleviate her symptoms. Denied history of 
manic symptoms
including decreased need for sleep, worsening of her 
impulsivity, excessive amounts of energy, grandiosity. Denied a 
history of psychotic symptoms including auditory visual 
hallucinations, thought insertion or broadcasting, paranoia. 
Denied eating disorder behavior including restricting food, 
binging or purging.
. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: no formal diagnoses
- SA/SIB: Denies/reports history of cutting that started her 
___ year of high school. Reports cutting at right hip. 
- Hospitalizations: denies 
- Therapist: sees counselor at ___ at ___ 

- Psychiatrist: none 
- Medication Trials: none
. 
Past medical history:
- Denies 

 
Social History:
Substance use history:
- Alcohol: Reports drinking ___ shots once every couple of 
weeks, denies history of blackouts until presentation
- Illicits: denies 
- Tobacco: denies 
. 
Personal and Social History: Per patient, OMR. Patient was born 
and raised on the ___ in ___ to an intact family as 
the youngest of 2 children. Mother is from ___, ___ and 
works as a ___ in a hospital-- patient describes her 
as "good, extroverted." Father works as a ___ ___ Ms. 
___ describes him as "kind of a goof... we are both held 
back and
introverted." She has an older sister, ___, "also kind of a 
goof," who suffers from depression, anxiety and "body image 
issues" and had recently attempted suicide in ___ via 
Tylenol overdose. Ms. ___ described "liking" growing up in 
___ and stated she was always a good student. Noted she 
started feeling depressed during her ___ year of high school 
but could not state why. Of note, patient reported that when her
sister struggles more with depression and anxiety, "I hold back 
more and I don't talk to my parents about my emotions" which 
tends to contribute to her depression and anxiety. Currently she 
is a freshman at ___ with an undeclared major. Reports 
grades are "pretty good" at this point, but has found the 
coursework challenging. No legal history, denies access to guns. 
Currently
is not in a relationship. 

 
Family History:
Family psychiatric history:
- Diagnoses: patient is unsure of formal diagnoses but has a 
sister with depression and anxiety. States she believes she has 
other family members with depression 
- ___: none completed, sister with suicide attempt 
- Addictions: reports aunts and uncles with history of 
alcoholism

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: Temp: 98.1 PO BP: 113/77 HR: 94 O2 sat: 99% 

-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck. No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Distended (patient says it's baseline), bowel sounds
normoactive.  No tenderness to palpation in all quadrants.  No
guarding, no rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: Pale appearing. Well healed scars ( self-inflicted)  over
right inguinal area, well demarcated no evidence of erythema, or
warmth. 

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Mental Status:
*Appearance: NAD, sitting in chair, appears stated age,
appropriately dressed in hospital gown, with ___ bear in hand
*Behavior: Cooperative and appropriate, tearful, guarded, did 
not
want to disclose information 
*Mood and Affect: "decompensated" affect is disinhibited, stabl
*Thought process: Linear, logical, no LOA
*Thought Content: recent SI (unable to comment on status of
thoughts at time of interview due to intoxication); Denies
delusions, AH/VH/HI 
*Judgment and Insight: Poor/Poor

==========================
DISCHARGE EXAMINATION: 
 
Pertinent Results:
___ 10:39AM URINE  UCG-NEGATIVE
___ 10:39AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:00AM   GLUCOSE-123* UREA N-8 CREAT-0.7 SODIUM-144 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-22 ANION GAP-19*
___ 02:00AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:00AM   WBC-7.7 RBC-4.13 HGB-13.3 HCT-36.5 MCV-88 
MCH-32.2* MCHC-36.4 RDW-12.2 RDWSD-39.0
___ 02:00AM   NEUTS-76.4* LYMPHS-17.6* MONOS-4.9* EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-5.89 AbsLymp-1.36 AbsMono-0.38 
AbsEos-0.03* AbsBaso-0.02
___ 02:00AM   PLT COUNT-342
___ 01:10PM BLOOD ALT-9 AST-19 AlkPhos-42 TotBili-0.4
___ 01:10PM BLOOD VitB12-574
___ 01:10PM BLOOD TSH-1.3
___ 01:10PM BLOOD 25VitD-___
 
Brief Hospital Course:
This is an ___ year old single Caucasian woman, currently a 
freshman at ___, no formal psychiatric history but 
with symptoms of depression and anxiety beginning in high 
school, history of self injurious behaviors, no prior suicide 
attempts, who presented to ___ ED via EMS due to concerns for 
suicidal ideation in the setting of intoxication. 
. 
Interview with Ms. ___ is significant for onset of 
depressive and anxiety symptoms beginning in her ___ year of 
___ for unclear reasons with poor motivation, low mood, 
difficulties with concentration, possibly some sleep 
disturbances, with associated anxiety and self-injurious 
behaviors with worsening of symptoms in the setting of academic 
stressors, and her sister's recent depression and suicide 
attempt. Mental status examination on admission was notable for 
well-groomed woman, who is cooperative on examination, with 
depressed mood and affect slightly restricted but not 
dysthymic/dysphoric. 
. 
Diagnostically, differential diagnosis is broad at this time and 
includes major depressive disorder without psychotic features as 
well as a primary anxiety disorder such as generalized anxiety 
disorder. Given the relative stability of her depression over 
the past year and a half, I am concerned of the possibility of 
the emergence of an underlying personality disorder, 
particularly given her self-injurious behaviors, chronic 
feelings of emptiness, and descriptions of mood reactivity. Of 
note, nothing or history that would suggest a prior manic 
episode that would be concerning for bipolar disorder, although 
given her young age, this should certainly remain on the 
differential. No evidence to suggest a primary psychotic 
disorder at this time.  Although I do not believe she meets 
criteria for an alcohol use disorder at this time, her 
significant alcohol use prior to her presentation was clearly a 
precipitant to her presentation and increases her risk of self 
injury significantly.
. 
#. Legal/Safety: Patient was admitted to Deaconess ___ on a 
___, upon admission she declined to sign a conditional 
voluntary form, stating she wanted to leave the hospital as soon 
as possible. She maintained her safety throughout her 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. Given her consistent denial of suicidal 
ideation with thought process that was linear, logical, goal and 
future oriented, I did not feel she met criteria to file a 7&8b 
and she was discharged upon expiration of her ___ on 
___. 
. 
#. Psychiatric: with depression and anxiety as noted above
- Patient was compliant in attending groups and maintained 
excellent behavioral control during her admission. She was 
compliant in meeting with her treatment team and as 
participatory in her care. 
- After discussion of the risks and benefits, we initiated 
Prozac 10 mg po qd, which Ms. ___ found sedating. 
Therefore, Prozac was changed to bedtime to avoid daytime 
sedation. For anxiety, we discussed the risks and benefits of 
Vistaril, which was started at 25 mg po bid prn. Ms. ___ 
tolerated this medication well with no complaints of side 
effects 
- In the setting of the stabilizing environment of the milieu 
and the reduction academic stress (with the patient consistently 
denied suicidal ideation or thoughts of self harm, reporting 
improvement in her depression and anxiety. A family meeting was 
held with her mother, who stated she felt Ms. ___ looked 
well-- her mother felt comfortable with discharge on ___ 
with plan to have a re-entry appointment at ___. 
- Discussed the risks and benefits of psychiatric follow up and 
I encouraged Ms. ___ to see a psychiatric provider ___ 7 
days of discharge. However, she had planned to travel with her 
family and would not return to the ___ area until ___. Of 
note, her mother stated she would be with the patient throughout 
this time and her mother felt comfortable with this plan; both 
the patient and her mother declined psychiatric follow up until 
___. 
- In terms of her alcohol use, we discussed in depth the pros 
and cons of her binge drinking and provided psychoeducation on 
the deleterious effects of alcohol on her mental health and 
safety. She understood these risks and stated she planned on 
abstaining from all alcohol for at least ___ months. We also 
talked about risk reduction measures if she does drink alcohol 
including drinking less, making sure she is drinking with a 
friend, etc. 
. 

 
Medications on Admission:
none
 
Discharge Medications:
1.  FLUoxetine 10 mg PO QHS 
RX *fluoxetine 10 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  HydrOXYzine 25 mg PO BID anxiety and insonia  
RX *hydroxyzine HCl 25 mg 1 tab by mouth twice a day Disp #*60 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe, without psychotic 
features
Generalized anxiety disorder 

 
Discharge Condition:
VS: 97.8   ___   18   99%RA   
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'okay' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please ___ ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___